US08026257B2
(±)-tert-Butyl 4-(4-fluorophenyl)-4-((1-(5-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)piperidine-1-carboxylate.
(±)-tert-Butyl 4-((1-(5-bromo-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (150 mg, 0.226 mmol), trimethylboroxine (0.063 mL, 0.453 mmol), and tetrakis(triphenylphosphine) palladium(0) (13.1 mg, 0.011 mmol) were combined in dry tetrahydrofuran (1. 1 mL) and 4 M sodium carbonate (0.17 mL ) in a microwave tube and sealed. After flushing the mixture with nitrogen, the mixture was heated at 110° C. for 2 h via microwave. After cooling to room temperature, the reaction mixture was concentrated, dissolved in diethyl ether and washed with water and brine, concentrated and purified by flash chromatography on silica gel (20-25% EtOAc/Hex) to afford 49 mg (36.2%) as an oil. 1H-NMR (CDCl3, 500 MHz) δ 7.93 (s, 1H), 7.32 (m, 2H), 7.24 (s, 1H), 7.02 (m, 2H), 6.66 (s, 1H), 5.65 (s, 2H), 4.96 (d, J=5 Hz, 1H), 3.33-3.75 (m, 6H), 3.0-3.15 (m, 2H), 2.29 (s, 3H), 1.85-2.2 (m, 4H), 1.43 (m, 12H), 0.89 (m, 2H), −0.06 (s, 9H); 13C-NMR (CDCl3, 126 MHz) δ 161.4 (d, J=974 Hz), 155.1, 146.2, 139.2, 133.3, 131.7, 129.1, 129.0, 124.0, 122.8, 121.8, 117.1, 115.1, 114.9, 81.7, 79.4, 77.6, 74.1, 67.3, 65.9, 41.3, 28.6, 23.1, 21.9, 17.9, 15.4, −1.4; Mass spec.: 598.45(MH)+.

reactant | (±)-tert-Butyl 4-((1-(5-bromo-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.226 mmol, 150 mg | BrC1=CC2=CN(N=C2C(=C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H45BrFN3O4Si
reactant | trimethylboroxine | 0.453 mmol, 0.063 mL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | sodium carbonate | 4 M, 0.17 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.011 mmol, 13.1 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (±)-tert-Butyl 4-(4-fluorophenyl)-4-((1-(5-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)piperidine-1-carboxylate | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COC(C)C1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)C | C33H48FN3O4Si
